US07223788B2
5-Bromofuran-2-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide
[1-(4-Aminophenyl)pyrrolidin-3-yl]dimethylamine was reacted with 5-bromo-2-furancarboxylic acid by method E. The product with a molecular weight of 378.27 (C17H20BrN3O2); MS (ESI): 379 (M+H+) was obtained as hydrotrifluoroacetate.

reactant | [1-(4-Aminophenyl)pyrrolidin-3-yl]dimethylamine | NC1=CC=C(C=C1)N1CC(CC1)N(C)C | C12H19N3
reactant | 5-bromo-2-furancarboxylic acid | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
product | 5-Bromofuran-2-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC(=CC1)Br)C | C17H20BrN3O2
